US06521657B2
3-[1′,2′-DIHYDRO-2′-(HYDROXYIMINO)SPIRO[CYCLOHEXANE-1,3′-[3H]INDOL]-5′YL]-5-FLUOROBENZONITRILE
To a solution of 3-fluoro-5-cyano-bromobenzene (0.4 g, 2.0 mmol) in dry DMF (10 ml) was added diboron pinacolate ester (0.63 g, 2.5 mmol), potassium acetate (0.65 g, 6.7 mmol) and PdCl2 (dppf) (0.2. g) and the reaction was heated to 80° C. under a nitrogen atmosphere. After 8 h. from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) (0.2 g, 0.5 mmol), PdCl2 (dppf) (0.05 g) and sodium carbonate (1.30 g, 12.5 mmol) were added and heating at 80° C. was continued. After 8 h. the reaction was cooled and partitioned between water and ethyl acetate, the organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography (SiO2, EtOAc:hexane 1:20) to give the desired product (0.14 g, 0.33 mmol, 66%).

reactant | 3-fluoro-5-cyano-bromobenzene | 2.0 mmol, 0.4 g | FC=1C=C(C=C(C1)C#N)Br | C7H3BrFN
reactant | potassium acetate | 6.7 mmol, 0.65 g | C(C)(=O)[O-].[K+]
reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 0.5 mmol, 0.2 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | sodium carbonate | 12.5 mmol, 1.30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | PdCl2 | 0.05 g | Cl[Pd]Cl
product | 3-[1′,2′-DIHYDRO-2′-(HYDROXYIMINO)SPIRO[CYCLOHEXANE-1,3′-[3H]INDOL]-5′YL]-5-FLUOROBENZONITRILE | 0.33 mmol, 0.14 g, 66% | ON=C1NC2=CC=C(C=C2C12CCCCC2)C=2C=C(C#N)C=C(C2)F | C20H18FN3O
